Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
fever, cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
PRIMARY ONCOLOGIST: Dr. ___

HISTORY OF PRESENT ILLNESS: 
Mr. ___ is a ___ year old man with a history of 
cholangiocarcinoma s/p 3 cycles of Cisplatin+Gemcitabine (last 
dose on ___ who presents with fever and cough x 2 days.  
He has been feeling unwell for the past 2 weeks since his last 
dose of chemotherapy on ___.  His wife reports fatigue and 
confusion.  The patient denies any confusion but does endorse 
fatigue.  He has been having low grade temps of 99-100 but this 
evening the pt developed chills and his temperature was 103.1.  
He was seen in ___ clinic today where CXR was obtained due 
to cough and was negative.  The fever occurred when he got home 
that evening so he came into the ER.  He denies other symptoms 
of diarrhea, constipation, nausea, vomiting, headache, myalgias, 
neck stiffness, nasal congestion, sore throat or dysuria.  The 
cough is dry, non-productive.  He feels leg weakness below the 
knees on both sides.  No numbness or tingling.

Of note, he was last hospitalized ___ with shaking chills 
and found to have R biliary obstruction with enterococcus 
septicemia, s/p ERCP for clearance of sludge/stones.

In the emergency department, initial vitals: 102.4 103 125/71 20 
97% ra.  LFTs were unremarkable.  He was given Cipro/Flagyl and 
1 gram of tylenol IV and admitted.  ERCP was contacted and will 
see him in the AM (recommended NPO).

Review of systems:
(+) Per HPI  
(-) Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 

 
Past Medical History:
PAST MEDICAL HISTORY: 
___
___
Intermittent migraines conrolled on atenolol
Arthritis

PAST ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the summer, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma.  Cytology was suspicious 
for
carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
-___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3 Cis/Gem

 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He
has no other family history of malignancy.

 
Physical Exam:
ADMISSION EXAM
VS: T98.3 BP 114/54 HR 74 RR 18 100% RA
GENERAL: alert and oriented, NAD
HEENT: No scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck 
Supple, No LAD.
CARDIAC: RR. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement bilaterally.
ABDOMEN: NABS. Soft, NT, ND.  No HSM
EXTREMITIES: No c/c/e, 2+ dorsalis pedis/ posterior tibial 
pulses.
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Gait assessment deferred

DISCHARGE EXAM
VS: 98.4, 99.0, 124/60, 94, 20, 99% RA
GENERAL: alert and oriented x3, NAD.
HEENT: No scleral icterus. PERRLA/EOMI. MMM. OP clear. Neck 
supple, No LAD.
CARDIAC: RR. Normal S1, S2. No m/r/g. 
LUNGS: CTA B, good air movement bilaterally.
ABDOMEN: NABS. Soft, NT, ND.  No HSM
EXTREMITIES: No c/c/e, 2+ dorsalis pedis/ posterior tibial 
pulses.
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Gait normal.

 
Pertinent Results:
ADMISSION LABS
___ 10:15PM BLOOD WBC-10.3 RBC-3.52* Hgb-10.5* Hct-31.9* 
MCV-90 MCH-29.9 MCHC-33.0 RDW-15.9* Plt ___
___ 10:15PM BLOOD Glucose-161* UreaN-8 Creat-0.8 Na-129* 
K-3.6 Cl-94* HCO3-25 AnGap-14
___ 10:10AM BLOOD ALT-31 AST-34 AlkPhos-117 TotBili-0.8
___ 10:19PM BLOOD Lactate-2.1*

STUDIES
CXR ___:
FINDINGS: 
Frontal and lateral chest radiograph demonstrates well expanded 
and clear lungs with no focal consolidation identified. Linear 
opacity within the left lower lung base consistent with 
atelectasis. There is no pleural effusion or pneumothorax. Re- 
demonstration of calcified granuloma projecting over the right 
midlung and better demonstrated on CT dated ___ 
(3:20). The cardiomediastinal and hilar contours are within 
normal limits.   
IMPRESSION: No pneumonia. 

___  TTE
The left atrium is normal in size. The left atrial volume is 
normal. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. No masses or vegetations are 
seen on the aortic valve. Trace aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. No mass or vegetation is seen on the 
mitral valve. No mitral regurgitation is seen. The left 
ventricular inflow pattern suggests impaired relaxation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
IMPRESSION: Normal biventricular cavity size and regional/global 
systolic function. No echocardiographic evidence of 
endocarditis. No pathologic vlavular regurgitation. 

___  CT HEAD W/O CONTRAST
IMPRESSION: 
1. No evidence of acute intracranial process.   
2. No evidence of intracranial metastatic disease. If there 
remains ongoing clinical concern, MRI would be more sensitive 
for the detection of occult metastatic disease. 

___  LIVER OR GALLBLADDER US (SINGLE ORGAN)
IMPRESSION: 
1. Moderate left intrahepatic biliary dilatation similar to the 
recent CT, but improved from the previous ultrasound in 
___.  
2. Metallic common bile duct stent with pneumobilia consistent 
with stent patency. 
3. Nondistended gallbladder containing gas and minor sludge. No 
evidence of cholecystitis. No hepatic abscess demonstrated. 

___  PORTABLE ABDOMEN
IMPRESSION: Unremarkable bowel gas pattern without evidence of 
obstruction or megacolon.  

___  CT ABD & PELVIS WITH CONTRAST  
1. New thickening of the sigmoid and descending colon with 
adjacent fat stranding could be secondary to colitis. Note is 
also made of thickening of the cecum. 
2. Stable position of the biliary stents with persistent 
pneumobilia and mild intrahepatic biliary ductal dilatation. 
3. Stable periportal and anterior caval lymph nodes. 

___ CXR
In comparison with the earlier study of this date, the PICC line 

has been pulled back so the tip lies in the upper portion of the 
SVC.  
Otherwise, little change. 
  
___ MRI BRAIN
There is no evidence of acute intracranial process or diffusion 
abnormalities.  There is no evidence of abnormal enhancement to 
indicate 
leptomeningeal disease or metastases. 
  
Scattered foci of high signal intensity are demonstrated in the 
subcortical 
white matter on FLAIR and T2-weighted images, which are 
nonspecific and may 
reflect areas of a small vessel disease. 

MICROBIOLOGY
__________________________________________________________
___ 1:20 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 8:50 am BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:47 am STOOL     CONSISTENCY: WATERY

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___. ___ @ 12:227 ON 
___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 
__________________________________________________________
___ 8:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 11:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefepime sensitivity testing confirmed by ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------     2 S
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ ___ 
___ 11:50AM. 
__________________________________________________________
___ 12:40 pm URINE      N. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 
__________________________________________________________
___ 12:40 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

DISCHARGE LABS
___ BLOOD WBC-5.3 RBC-3.55* Hgb-10.4* Hct-33.3* MCV-94 
MCH-29.4 MCHC-31.3 RDW-17.0* Plt ___
___ BLOOD Glucose-130* UreaN-6 Creat-0.6 Na-139 K-4.1 
Cl-105 HCO3-25 AnGap-13
___ BLOOD ALT-32 AST-45* AlkPhos-155* TotBili-0.4
___ BLOOD Calcium-9.1 Phos-3.5 Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with cholangiocarcinoma s/p 3 
cycles of Cis/Gem (last dose on ___ C3D8) who presents with 
fever and cough, found to have e.coli bacteremia and c.diff 
complicated by delirium.

ACUTE ISSUES:
# E. Coli bacteremia: the patient was found to have e.coli 
bacteremia and was initially started on zosyn and transitioned 
to meropenem in house based on culture sensis. He was changed 
over to ertapenem for ease of administration. He will complete a 
2 week course (via PICC) on ___. He did have fevers on 
admission which did not recur after he was started on broad 
spectrum antibiotics. The source of the bacteremia was not 
clear: UA, RUQ and CT abdomen and pelvis were negative. 
Possibly, a transient biliary obstruction lead to his 
bacteremia. He did not require ERCP during this admission.

# C.diff diarrhea: the patient did endorse diarrhea and c.diff 
was positive. Diarrhea improved with treatment with PO Vanco, 
with which he was treated due to his age and his concomitant 
bacteremia with aid from ID consultants. He should take PO vanco 
while he is being treated with ertapenem and for 2 weeks 
following completion of ertapenem, until ___.

# Delirium: the patient was delirious while he was bacteremic. 
His confusion improved with treatment, but he was still a bit 
"off" per his wife. For example, he insisted that he had $3 
million and she stated that he was previously a shy, reserved 
man, and he is currently quite talkative. For these reasons, CT 
head and MRI brain were obtained but were negative. The cause of 
his personality change is unclear but he is high functioning and 
is always oriented and alert.

CHRONIC ISSUES:
# Cholangiocarcinoma: s/p 3 cycles of Cis/Gem.  Pt reports 
increased side effects with most recently dose on ___.

# HTN: atenolol as per home dose

# BPH: terazosin as per home dose

TRANSITIONS OF CARE:
#. CODE: FULL, confirmed 
#. HCP: wife ___ ___
#. PENDING AT TIME OF DISCHARGE: blood cultures x3.
#. TRANSITIONS OF CARE: 
- Ertapenem until ___ via ___. PICC can be removed after the 
medication is completed.
- Check labs on ___
- PO Vanco until ___ for c.diff
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
4. Terazosin 5 mg PO HS 
5. TraZODone 100 mg PO HS:PRN insomnia 
6. Loratadine 10 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Multivitamins 1 TAB PO DAILY 
9. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Outpatient Lab Work
Please check CBC, AST, ALT, alk phos, bilirubin, creatinine on 
___. Please fax results to Dr ___ at ___. phone 
___.
2. Atenolol 50 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU BID 
4. Loratadine 10 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Terazosin 10 mg PO HS 
7. TraZODone 100 mg PO HS:PRN insomnia 
8. Fish Oil (Omega 3) 1000 mg PO DAILY 
9. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
10. Multivitamins 1 TAB PO DAILY 
11. Vancomycin Oral Liquid ___ mg PO/NG Q6H 
12. ertapenem 1 gram injection daily 
Take through ___ 
13. Lorazepam 0.5 mg PO ONCE Duration: 1 Dose 
please take half an hour prior to radiation treatments 
14. Ondansetron 8 mg PO ONCE Duration: 1 Dose 
Please take one tablet half an hour prior to radiation 
treatment. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis:
e.coli bacteremia
c.difficile diarrhea
cholangiocarcinoma
delirium

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted for fevers. You were found to have a blood 
infection with e.coli, and for this, you will need to take 
antibiotics for 2 full weeks. You were also found to have c.diff 
diarrheal infection, for which you will have to take antibiotics 
for 2 weeks following the completion of your IV antibiotics.
You had an MRI and a CT of the brain which were both negative. 

Check labs once on approximately ___ and have results reviewed 
by Dr ___.

We wish you all the best. It was a pleasure taking care of you.
 
Followup Instructions:
___